US06187777B1
6-(tert-Butyl)-2-methyl-4-piperidylpyrrolo[3,2-d]pyrimidine Hydrochloride Hydrate
Using the method described in Example 30 by employing 1-(tert-butyl)vinylpyrrolidine (freshly prepared before use) (1.20 g, 7.73 mmol), 2-methyl-4,6-dichloro-5-nitropyrimidine (Example 76(b)) (1.60 g, 7.73 mmol), N,N-diisopropylethyl amine (Aldrich Chemical Company) (1.3 mL, 7.73 mmol), piperidine (Aldrich Chemical Company) (1.2 mL, 12.4 mmol), NEt3 (Aldrich Chemical Company) (2.0 mL) and SnCl2 (23 mL of a 2M solution in DMF). The crude residue was purified by flash chromatography on silica gel with 95:5 CHCl3:MeOH as elutant to give 448 mg (21%) of the free base as a cream colored solid. 1H NMR (DMSO-d6; 400 MHz): δ 1.36 (s, 9), 1.63 (br s, 6), 2.38 (s, 3), 3.60 (br s, 4), 6.05 (d, 1, J=1.6), 10.20 (s, 1). MS m/z: 273 (M+1). To a hot solution of 6-(tert-butyl)-2-methyl-4-piperidylpyrrolo[3,2-d]pyrimidine (0.45 g, 1.65 mmol) in 10:1 EtOAc:MeOH (30 mL) was added 1N etheral HCl (Aldrich Chemical Company) (1.70 mL, 1.65 mmol). Crystallization occurred as the mixture cooled and the precipitate was collected by filtration, washed with Et2O (3×10 mL) and dried under vacuum to give 420 mg (83%) of the title compound as a white colored solid. Mp: 256-258° C. 1H NMR (DMSO-d6; 400 MHz): δ 1.41 (s, 9), 1.67 (m, 6), 2.54 (s, 3), 3.98 (t, 4, J=5.2), 6.26 (s, 1), 11.14 (s, 1), 14.32 (s, 2). MS m/z: 273 (M+1). Anal. Calcd for C16H25ClN4.0.25H2O: C, 61.41; H, 8.20; N, 17.91; Cl, 11.33. Found C, 61.41; H, 8.11; N, 17.90; Cl, 11.39.

reactant | 6-(tert-butyl)-2-methyl-4-piperidylpyrrolo[3,2-d]pyrimidine | 1.65 mmol, 0.45 g | C(C)(C)(C)C1CC(CC(N1)C)C1=NC=C2C(N1)=CC=N2 | C16H24N4
reactant | EtOAc | CCOC(=O)C | C4H8O2
reactant | HCl | 1.65 mmol, 1N, 1.70 mL | Cl | ClH
solvent | MeOH | 30 mL | CO | CH4O
product | 6-(tert-Butyl)-2-methyl-4-piperidylpyrrolo[3,2-d]pyrimidine Hydrochloride Hydrate | 420 mg, 83% | O.Cl.C(C)(C)(C)C1CC(CC(N1)C)C1=NC=C2C(N1)=CC=N2 | InChI=1S/C16H24N4.ClH.H2O/c1-10-7-11(8-14(19-10)16(2,3)4)15-18-9-13-12(20-15)5-6-17-13;;/h5-6,9-11,14,19H,7-8H2,1-4H3,(H,18,20);1H;1H2
